US08076336B2
Methyl 3-tert-butyl-5-hydroxymethylbenzoate (3.5 g) was reacted with 2-(3-bromopropoxy)-tetrahydropyran analogously to O5.063 to give methyl 3-tert-butyl-5-[3-(tetrahydropyran-2-yloxy)propoxymethyl]benzoate, and the latter was subsequently converted to the title compound according to the sequence O4.059 to O2.059. 1.75 g of the title compound were obtained.

reactant | Methyl 3-tert-butyl-5-hydroxymethylbenzoate | 3.5 g | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1)CO | C13H18O3
reactant | 2-(3-bromopropoxy)-tetrahydropyran | BrCCCOC1OCCCC1 | C8H15BrO2
product | methyl 3-tert-butyl-5-[3-(tetrahydropyran-2-yloxy)propoxymethyl]benzoate | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1)COCCCOC1OCCCC1 | C21H32O5
